US08648068B2
10.3 4-[4-Fluoro-2-((S)-1-methanesulfonyl-piperidin-3-yloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid
4-[4-Fluoro-2-((S)-1-methanesulfonyl-piperidin-3-yloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester (130 mg) was dissolved in THF (3 ml) and a solution of lithium hydroxide* H2O (60 mg) in water (3 ml) was added. The mixture was stirred for 4 h. HCl (2M) was added to adjusted to pH 5 and the volatile solvent partially removed until crystallization occurred. The solid was collected by filtration. The filter cake was washed with water and was dried to give the desired product.

reactant | 4-[4-Fluoro-2-((S)-1-methanesulfonyl-piperidin-3-yloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | 130 mg | COC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)O[C@@H]2CN(CCC2)S(=O)(=O)C)S1)C | C21H23FN4O5S2
reactant | lithium hydroxide | [OH-].[Li+]
reactant | HCl | 2M | Cl | ClH
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | water | 3 ml | O | H2O
solvent | H2O | 60 mg | O | H2O
product | 4-[4-Fluoro-2-((S)-1-methanesulfonyl-piperidin-3-yloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O)O[C@@H]2CN(CCC2)S(=O)(=O)C | C20H21FN4O5S2
